US05091519
C. N4 -(3-Aminopropyl)-2',3'-dideoxycytidine-5'-triphosphate (3).
2',3'-dideoxycytidine-5'-triphosphate (20 umol) was dissolved in 1.0 ml of the 1,3-propanediamine/bisulfite reaction mixture and incubated at 37° C. for 60 hr. when HPLC indicated complete conversion of the starting material to one new major substance. The product was isolated by Sephadex chromatography and lyophilization in the manner described above to yield 16.0 umol (80%) of an amorphous solid and identified as N4 -(3-aminopropyl)-2'3'-dideoxycytidine-5-triphosphate AP-ddCTP. The structure of AP-ddCTP is depicted in FIG. 1 as B where N equals three. The solid was homogeneous by HPLC (RT=20.02 min, RT(ddCTP)=21.08) and characterized by UV lambda max (H2O)=272.5 nm.

reactant | ddCTP | OP(OP(O)(OP(O)(O)=O)=O)(OC[C@@H]1CC[C@H](N2C(N=C(C=C2)N)=O)O1)=O | C9H16N3O12P3
solvent | H2O | O | H2O
product | N4 -(3-Aminopropyl)-2',3'-dideoxycytidine-5'-triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1CC[C@@H](O1)N1C(=O)N=C(NCCCN)C=C1 | C12H23N4O12P3
